US06420364B1
Morpholine-4-carboxylic Acid [1-(4-Cyano-1-cyclohexyl-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide
Morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide hydrochloride (0.050 g, 0.12 mmol, 1.0 equiv), cyclohexanone (0.015 g, 0.15 mmol, 1.2 equiv), and Na(OAc)3BH (0.046 g, 0.22 mmol, 1.75 equiv) were mixed in 15 mL of 1% AcOH in THF. The reaction was stirred at room temperature for 16 h. The reaction was diluted with 25 mL of saturated sodium bicarbonate solution and the product was extracted 4×25 mL EtOAc. The organic extracts were combined and concentrated. The crude product was purified by semi-prep reverse-phase HPLC using 20 to 80% CH3CN in water over a gradient of 25 min to yield the desired product, pure, as a white solid (0.012 g, 21%); MS, m/z 448=M+1.

reactant | Morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide hydrochloride | 0.12 mmol, 0.050 g, 1.0 equiv | Cl.C(#N)C1(CCNCC1)NC(=O)C(CC(C)(C)C)NC(=O)N1CCOCC1
reactant | cyclohexanone | 0.15 mmol, 0.015 g, 1.2 equiv | C1(CCCCC1)=O | C6H10O
reactant | Na(OAc)3BH | 0.22 mmol, 0.046 g, 1.75 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
product | Morpholine-4-carboxylic Acid [1-(4-Cyano-1-cyclohexyl-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide | C(#N)C1(CCN(CC1)C1CCCCC1)NC(=O)C(CC(C)(C)C)NC(=O)N1CCOCC1 | C24H41N5O3
